US05750702
A mixture of ethyl 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylate (3.66 g, 15.4 mmol) and ammonium acetate (5.94 g, 77.1 mmol) in N,N-dimethylformamide (30 mL) was heated at 115° C. for 23 hours. The mixture was cooled, concentrated in vacuo, ice water added, and the precipitate collected and dried to give ethyl 4-oxo-5-ethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylate (1.95 g). The aqueous filtrate was extracted 2X with ethyl acetate, the combined organic layers dried over magnesium sulfate, filtered, and concentrated in vacuo to afford additional ester (0.68 g). The combined materials were treated with aqueous 5N sodium hydroxide (75 mL) in dioxane (10 mL) at reflux for 2 hours. After cooling in an ice water bath, the mixture was acidified with aqueous hydrochloric acid, and concentrated in vacuo. Ethyl acetate was added, the mixture filtered, and the organic layer concentrated in vacuo. Trituration with ethyl acetate afforded 4-oxo-5-ethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylic acid (0.84 g).

reactant | ethyl 4-oxo-5-ethyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine-3-carboxylate | 15.4 mmol, 3.66 g | O=C1N(CCC2=C1C(=CO2)C(=O)OCC)CC | C12H15NO4
reactant | ammonium acetate | 77.1 mmol, 5.94 g | C(C)(=O)[O-].[NH4+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | ethyl 4-oxo-5-ethyl-4,5,6,7-tetrahydro-1H-pyrrolo[3,2-c]pyridine-3-carboxylate | 1.95 g | O=C1N(CCC2=C1C(=CN2)C(=O)OCC)CC | C12H16N2O3
